US08530503B2
2-(3,4-diethoxyphenyl)-5-(pyridin-4-yl)-1,3,4-oxadiazole (25)
To a stirred suspension of Na2CO3 (1.42 mmol, 150.52 mg) and pyridine-4-carbohydrazide (0.71 mmol, 97 mg) in NMP (0.8 mL) was added a solution of 3,4-diethoxybenzoylchloride (prepare above) in NMP (0.8 mL). The reaction was stirred for 12 h at room temperature, poured to 20 mL of cold H2O and filtered. The precipitated intermediate was dried in vacuo. The solid was added to POCl3 (5 mL) and heated to 70-72° C. for 6 h. The solution was poured in an ice-water container and neutralized with a solution of NaOH (2M). The precipitated product was filtered and purified by C.C. using CH2Cl2:MeOH (9:1) to yield the product in 67% yield (150 mg).

reactant | Na2CO3 | 1.42 mmol, 150.52 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | pyridine-4-carbohydrazide | 0.71 mmol, 97 mg | N1=CC=C(C=C1)C(=O)NN | C6H7N3O
reactant | 3,4-diethoxybenzoylchloride | C(C)OC=1C=C(C(=O)Cl)C=CC1OCC | C11H13ClO3
reactant | H2O | 20 mL | O | H2O
solvent | NMP | 0.8 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 0.8 mL | CN1CCCC1=O | C5H9NO
product | 2-(3,4-diethoxyphenyl)-5-(pyridin-4-yl)-1,3,4-oxadiazole | C(C)OC=1C=C(C=CC1OCC)C=1OC(=NN1)C1=CC=NC=C1 | C17H17N3O3
